US07915424B2
3-(5-Formylpyridin-3-ylethynyl)-benzonitrile
Add a 2 M solution of isopropylmagnesium chloride in tetrahydrofuran (220 mg, 2.12 mmol) to a −20° C. solution of 3-(5-bromopyridin-3-ylethynyl)-benzonitrile, (prepared essentially as described in PREPARATION 19), (300 mg, 1.06 mmol) in tetrahydrofuran (2 mL) and stir for 1 h. Add N,N-dimethylformamide (150 mg, 2.12 mmol) in one portion, warm to room temperature, dilute with ethyl acetate and an aqueous saturated solution of sodium bicarbonate and separate the layers. Dry (magnesium sulfate), filter and concentrate. Purify by silica gel chromatography, eluting with 0:100 to 60:40 tetrahydrofuran:hexanes to give the title compound (92 mg, 37%).

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 3-(5-bromopyridin-3-ylethynyl)-benzonitrile | BrC=1C=C(C=NC1)C#CC=1C=C(C#N)C=CC1 | C14H7BrN2
reactant | N,N-dimethylformamide | 2.12 mmol, 150 mg | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.12 mmol, 220 mg | O1CCCC1 | C4H8O
product | 3-(5-Formylpyridin-3-ylethynyl)-benzonitrile | 92 mg, 37% | C(=O)C=1C=C(C=NC1)C#CC=1C=C(C#N)C=CC1 | C15H8N2O
